US07709509B2
2.2 g {4-[4-Butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-chloro-phenyl}-acetonitrile were dissolved in a mixture of 6 ml tetrahydrofuran and 12 ml methanol. 3.3 g hydroxylamine hydrochloride were added followed by the addition of 6.6 ml triethylamine. The reaction mixture was stirred at 60° C. for two hours. The solvents were removed in vacuo and the resulting residue poured into water and extracted five times with portions of 30 ml ethylacetate. The combined organic extracts were dried over MgSO4 and the solvent was evaporated in vacuo to provide 2.3 g 2-{4-[4-Butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-chloro-phenyl}-N-hydroxy-acetamidine as crude material.

reactant | {4-[4-Butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-chloro-phenyl}-acetonitrile | 2.2 g | C(CCC)C=1N=C(SC1COC1=CC(=C(C=C1)CC#N)Cl)C1=CC=C(C=C1)C(F)(F)F | C23H20ClF3N2OS
reactant | hydroxylamine hydrochloride | 3.3 g | Cl.NO
reactant | triethylamine | 6.6 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | methanol | 12 ml | CO | CH4O
product | 2-{4-[4-Butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-chloro-phenyl}-N-hydroxy-acetamidine | 2.3 g | C(CCC)C=1N=C(SC1COC1=CC(=C(C=C1)CC(=N)NO)Cl)C1=CC=C(C=C1)C(F)(F)F | C23H23ClF3N3O2S
